US09303041B2
tert-Butyl 3-((1,3-dioxoisoindolin-2-yl)methyl)-4-methylpiperazine-1-carboxylate
To a mixture of tert-butyl 3-(aminomethyl)-4-methylpiperazine-1-carboxylate, prepared as described in the previous step, (5.5 g, crude) and sodium bicarbonate (2.52 g, 30 mmol) in tetrahydrofuran (100 mL) was added a solution of 2H-isoindole-2-carboxylic acid, 1,3-dihydro-1,3-dioxo-, ethyl ester (6.59 g, 30 mmol) in tetrahydrofuran (20 mL) at ambient temperature. After stirring for 30 minutes, the suspension was filtered, and the filtrate was concentrated to give crude product which was purified by column chromatography to provide the title compound. 1H NMR (400 MHz, MeOD) δ 7.87-7.85 (m, 2H), 7.87-7.80 (m, 2H), 3.94-3.90 (m, 1H), 3.75-3.65 (br, 3H), 3.43-3.41 (br, 1H), 3.30-3.28 (m, 2H), 3.49 (s, 3H), 2.39-2.38 (m, 1H), 2.30-2.28 (m, 1H), 1.36 (s, 9H).

reactant | tert-butyl 3-(aminomethyl)-4-methylpiperazine-1-carboxylate | NCC1CN(CCN1C)C(=O)OC(C)(C)C | C11H23N3O2
reactant | sodium bicarbonate | 30 mmol, 2.52 g | C([O-])(O)=O.[Na+]
reactant | 2H-isoindole-2-carboxylic acid | C=1N(C=C2C=CC=CC12)C(=O)O | C9H7NO2
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | tert-Butyl 3-((1,3-dioxoisoindolin-2-yl)methyl)-4-methylpiperazine-1-carboxylate | O=C1N(C(C2=CC=CC=C12)=O)CC1CN(CCN1C)C(=O)OC(C)(C)C | C19H25N3O4
